US09125414B2
3-Cyclopropyl-isoxazole-4-carboxylic acid
5.6 g (31 mmol) of 3-Cyclopropyl-isoxazole-4-carboxylic acid ethyl ester were slowly added to a solution of 6.1 g (93 mmol, 85% purity) of potassium hydroxide in ethanol/water (1:3, 100 ml) at 0° C. The reaction mixture was stirred at room temperature for 16 h, diluted with water, acidified (pH=2) with 20% aqueous HCl and extracted with dichloromethane. The combined organic layers were dried over sodium sulfate, filtered and the solvent was removed to yield 4.7 g (94%, 95% purity) of the title compound which did not need further purification.

reactant | 3-Cyclopropyl-isoxazole-4-carboxylic acid ethyl ester | 31 mmol, 5.6 g | C(C)OC(=O)C=1C(=NOC1)C1CC1 | C9H11NO3
reactant | potassium hydroxide | 93 mmol, 6.1 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | ethanol water | 100 ml | C(C)O.O
solvent | water | O | H2O
product | 3-Cyclopropyl-isoxazole-4-carboxylic acid | C1(CC1)C1=NOC=C1C(=O)O | C7H7NO3
